US06495546B1
A mixture of 2-[8-[(2R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxyethylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid tert-butyl ester (353 mg) and 10% palladium on activated carbon (50% wet, 100 mg) in methanol (5 ml) was stirred at room temperature in the presence of hydrogen at an atmospheric pressure for 3.5 hours. After filtration, the filtrate was evaporated in vacuo. The residue was purified by column chromatography on silica gel (chloroform:methanol=10:1 to 5:1) to give 2-[8-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid tert-butyl ester (268 mg).

reactant | 2-[8-[(2R)-2-(4-benzyloxy-3-methanesulfonylaminophenyl)-2-hydroxyethylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid tert-butyl ester | 353 mg | C(C)(C)(C)OC(COC=1C=CC2=C(CC(CCC2)NC[C@H](O)C2=CC(=C(C=C2)OCC2=CC=CC=C2)NS(=O)(=O)C)C1)=O | C33H42N2O7S
reactant | hydrogen | [H][H] | H2
catalyst | palladium on activated carbon | 100 mg | [Pd] | Pd
solvent | methanol | 5 ml | CO | CH4O
product | 2-[8-[(2R)-2-hydroxy-2-(4-hydroxy-3-methanesulfonylaminophenyl)ethylamino]-6,7,8,9-tetrahydro-5H-benzocyclohepten-2-yloxy]acetic acid tert-butyl ester | 268 mg | C(C)(C)(C)OC(COC=1C=CC2=C(CC(CCC2)NC[C@@H](C2=CC(=C(C=C2)O)NS(=O)(=O)C)O)C1)=O | C26H36N2O7S
